US07795247B2
Step 1: methyl 3-cyclohexyl-2-(4-fluoro-2-hydroxyphenyl)-1H-indole-6-carboxylate
To a solution of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (prepared as described in WO2004087714 from commercially available methyl indole-6-carboxylate) in a mixture of DME and EtOH (5:2, v/v, 0.2 M) were added 2.6 eq. of Na2CO3 (2 M aqueous solution), 1.3 eq. of 4-fluoro-2-hydroxy-phenylboronic acid and 0.1 eq. of tetrakis(triphenylphosphine)palladium(0). The mixture was degassed thoroughly with a stream of argon and then heated to 100° C. overnight. The reaction mixture was allowed to cool to RT, diluted with EtOAc and washed with 1N hydrochloric acid and with brine, dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash chromatography (1:5 EtOAc/PE) to afford the title compound as a beige solid (61%); MS (ES+) m/z 368 (M+H)+.

reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | methyl indole-6-carboxylate | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | Na2CO3 | 2 M, 2.6 eq. | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-fluoro-2-hydroxy-phenylboronic acid | 1.3 eq. | FC1=CC(=C(C=C1)B(O)O)O | C6H6BFO3
solvent | DME | COCCOC | C4H10O2
solvent | EtOH | 0.2 M | CCO | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-cyclohexyl-2-(4-fluoro-2-hydroxyphenyl)-1H-indole-6-carboxylate | 61% | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=C(C=C1)F)O | C22H22FNO3
